US09238640B2
To a degassed solution of N-(4-formyl-2-iodo-phenyl)-acetamide (0.760 g, 2.63 mmol) in anhydrous DMF (20 mL) were added bis(triphenylphosphine)palladium(II) dichloride (90 mg, 0.13 mmol), copper (I) iodide (0.03 g, 0.13 mmol), 1,1,3,3-tetramethyl guanidine (1.51 g, 13.1 mmol), and propargyl alcohol (0.210 g, 3.68 mmol). The reaction mixture was stirred at room temperature for 2 hours and then at 80° C. for 24 hours under nitrogen. Solvent was evaporated under reduced pressure. Water (100 mL) was added and the mixture was extracted with ethyl acetate (200 mL). The organic phase was backwashed with water (2×100 mL), brine (100 mL), and dried over anhydrous Na2SO4. Solvent was evaporated and crude compound was purified by the Simpliflash system (60% ethyl acetate in hexanes as eluent) to give 2-hydroxymethyl-1H-indole-5-carbaldehyde as a pale yellow solid. Yield: 0.10 g (22%).

reactant | N-(4-formyl-2-iodo-phenyl)-acetamide | 2.63 mmol, 0.760 g | C(=O)C1=CC(=C(C=C1)NC(C)=O)I | C9H8INO2
reactant | 1,1,3,3-tetramethyl guanidine | 13.1 mmol, 1.51 g | CN(C(=N)N(C)C)C | C5H13N3
reactant | propargyl alcohol | 3.68 mmol, 0.210 g | C(C#C)O | C3H4O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.13 mmol, 90 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper (I) iodide | 0.13 mmol, 0.03 g | [Cu]I
product | 2-hydroxymethyl-1H-indole-5-carbaldehyde | OCC=1NC2=CC=C(C=C2C1)C=O | C10H9NO2
